US06579983B1
2-Cyano-3-dimethylamino-1-thiazol-2-ylpropen-1-one was prepared from 2-cyanoacetyl thiazole (400 mg,2.94 mmol) and dimethylformamide dimethylacetal (1.5 mL) as a yellow solid, m.p. 126° δH (CDCl3) 8.89 (1H, s), 7.96 (1H, d, J 3.3 Hz), 7.60 (1H, d, J 3.1 Hz), 3.54 (3H, s) and 3.35 (3H, s).

reactant | 2-cyanoacetyl thiazole | 2.94 mmol, 400 mg | C(#N)CC(=O)C=1SC=CN1 | C6H4N2OS
reactant | dimethylformamide dimethylacetal | 1.5 mL | COC(N(C)C)OC | C5H13NO2
product | 2-Cyano-3-dimethylamino-1-thiazol-2-ylpropen-1-one | C(#N)C(C(=O)C=1SC=CN1)=CN(C)C | C9H9N3OS
